US09403801B2
Step 8) 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine
To a solution of tert-butyl 4-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate (0.35 g, 0.82 mmol) in DCM (10 mL) was added a solution of HCl in EtOAc (2.83 M, 5 mL) and the reaction mixture was stirred at rt for 16 h then added water (10 mL). The resulting mixture was adjusted to pH=8 with a saturated Na2CO3 aqueous solution, then extracted with DCM (20 mL×3). The combined organic layers were washed with brine dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the product as a yellow solid (0.13 g, 48.5%).

reactant | tert-butyl 4-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 0.82 mmol, 0.35 g | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C22H33N7O2
reactant | HCl | Cl | ClH
reactant | water | 10 mL | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 2.83 M, 5 mL | CCOC(=O)C | C4H8O2
product | 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine | 0.13 g, 48.5% | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CNCC12CCCC2 | C17H25N7
